US06225312B1
In the case of Q10-Br, the desired 2-fluoro-5-phenyl-toluene (S1=F) was prepared from phenylboronic acid and 2-fluoro-5-bromo-toluene via a Suzuki reaction, analogously to procedure A2. See scheme A3.

reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2-fluoro-5-bromo-toluene | FC1=C(C=C(C=C1)Br)C | C7H6BrF
product | 2-fluoro-5-phenyl-toluene | FC1=C(C=C(C=C1)C1=CC=CC=C1)C | C13H11F
